US07238808B2
5-[5-(4-Chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.6) (37 mg, 0.17 mmol) and 5-bromo-thiophene-2-sulfonamide (35 mg, 0.17 mmol) according to general procedure II. Obtained as a yellow solid (45 mg, 74%). MS (ISP) 415.0 [(M+H)+].

reactant | 5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.17 mmol, 37 mg | ClC1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C#C | C14H8ClN3
reactant | 5-bromo-thiophene-2-sulfonamide | 0.17 mmol, 35 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[5-(4-Chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | ClC1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C#CC2=CC=C(S2)S(=O)(=O)N | C18H11ClN4O2S2
